US09023846B2
To a solution of 5-tert-butyl-4-chloro-2-methyl-2H-pyrazole-3-carboxylic acid [5-bromo-3-(4-methoxy-benzylamino)-pyrazin-2-yl]-amide (87 mg, 0.17 mmol), 2-trifluoromethyl-phenylboronic acid (36 mg, 0.19 mmol), in DMF (0.5 mL), toluene (2 mL) and water (2 mL), K2CO3 (33 mg, 0.23 mmol) was added. The resulting solution was placed under Ar and (dppf)PdCl2.DCM (14 mg, 0.02 mmol) was added. The resulting mixture was stirred at 100° C. overnight. The organic layer was separated, dried (Na2SO4) and concentrated. The residue obtained was purified on silica (20:80-100:0 EtOAc: hexane) to yield 5-tert-butyl-4-chloro-2-methyl-2H-pyrazole-3-carboxylic acid [3-(4-methoxy-benzylamino)-5-(2-trifluoromethyl-phenyl)-pyrazin-2-yl]-amide. Mass Spectrum (LCMS, ESI pos.): Calculated for C28H28ClF3N6O: 573.1 (M+H); Measured: 573.3.

reactant | 5-tert-butyl-4-chloro-2-methyl-2H-pyrazole-3-carboxylic acid [5-bromo-3-(4-methoxy-benzylamino)-pyrazin-2-yl]-amide | 0.17 mmol, 87 mg | BrC=1N=C(C(=NC1)NC(=O)C=1N(N=C(C1Cl)C(C)(C)C)C)NCC1=CC=C(C=C1)OC | C21H24BrClN6O2
reactant | 2-trifluoromethyl-phenylboronic acid | 0.19 mmol, 36 mg | FC(C1=C(C=CC=C1)B(O)O)(F)F | C7H6BF3O2
reactant | K2CO3 | 0.23 mmol, 33 mg | C(=O)([O-])[O-].[K+].[K+]
reactant | DCM | 0.02 mmol, 14 mg | C(Cl)Cl | CH2Cl2
solvent | DMF | 0.5 mL | CN(C)C=O | C3H7NO
catalyst | (dppf)PdCl2 | C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.Cl[Pd]Cl.[Fe+2]
solvent | water | 2 mL | O | H2O
solvent | toluene | 2 mL | C1(=CC=CC=C1)C | C7H8
product | 5-tert-butyl-4-chloro-2-methyl-2H-pyrazole-3-carboxylic acid [3-(4-methoxy-benzylamino)-5-(2-trifluoromethyl-phenyl)-pyrazin-2-yl]-amide | COC1=CC=C(CNC=2C(=NC=C(N2)C2=C(C=CC=C2)C(F)(F)F)NC(=O)C=2N(N=C(C2Cl)C(C)(C)C)C)C=C1 | C28H28ClF3N6O2
